US08058300B2
Step 3: 1-{4′-[3-Methyl-4-((R)-1-p-tolyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 6, Step 3 using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-p-tolyl-ethyl ester and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-p-tolyl-ethyl ester | C1(=CC=C(C=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O)C | C20H19BrN2O3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-{4′-[3-Methyl-4-((R)-1-p-tolyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=CC=C(C=C1)C | C32H32N2O5
